US09102591B2
(4-Hydroxy-tetrahydro-pyran-4-yl)-(6-trifluoromethyl-pyridin-3-yl)-acetonitrile (1.15 g, 4.02 mmol) was dissolved in thionyl chloride (50 mL, 600 mmol). One drop of DMF was added and the mixture was heated at reflux for 1 hour and then cooled to room temperature and concentrated in vacuo. The resulting crude product was purified by flash chromatography to yield 2-(dihydro-2H-pyran-4(3H)-ylidene)-2-(6-(trifluoromethyl)pyridin-3-yl)acetonitrile (1.04 g, 3.9 mmol, 95%).

reactant | (4-Hydroxy-tetrahydro-pyran-4-yl)-(6-trifluoromethyl-pyridin-3-yl)-acetonitrile | 4.02 mmol, 1.15 g | OC1(CCOCC1)C(C#N)C=1C=NC(=CC1)C(F)(F)F | C13H13F3N2O2
reactant | thionyl chloride | 600 mmol, 50 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | One drop | CN(C)C=O | C3H7NO
product | 2-(dihydro-2H-pyran-4(3H)-ylidene)-2-(6-(trifluoromethyl)pyridin-3-yl)acetonitrile | 3.9 mmol, 1.04 g, 95% | O1CCC(CC1)=C(C#N)C=1C=NC(=CC1)C(F)(F)F | C13H11F3N2O
